US08536165B2
5-Bromo-2-(2-fluoro-5-isopropoxyphenyl)pyridine
Obtained (0.600 g, yield 45%) following the procedure described in Intermediate 27, starting with 2,5-dibromopyridine (4.22 mmol, 1.0 g), 2-fluoro-5-isopropoxyphenylboronic acid (4.22 mmol, 0.836 g).

reactant | 2,5-dibromopyridine | 4.22 mmol, 1.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 2-fluoro-5-isopropoxyphenylboronic acid | 4.22 mmol, 0.836 g | FC1=C(C=C(C=C1)OC(C)C)B(O)O | C9H12BFO3
product | 5-Bromo-2-(2-fluoro-5-isopropoxyphenyl)pyridine | yield 45% | BrC=1C=CC(=NC1)C1=C(C=CC(=C1)OC(C)C)F | C14H13BrFNO
